US05112867
2-[Bis(4-acetoxyphenyl)methyl]-N-(2,4-dimethoxyphenyl)benzamide (Compound 2)
In 20 ml of methylene chloride were dissolved 1.08 g of 2,4-dimethoxyaniline and 4.5 ml of triethylamine. To this solution was dropwise added under ice cooling 20 ml of methylene chloride containing 3 g of 2-[bis(4-acetoxyphenyl)methyl]benzoyl chloride obtained in Reference Example 2. After stirring for 7 hours, water was added thereto. The organic layer was separated off, and the aqueous layer was extracted with chloroform. The chloroform layer was combined with the organic layer, and the combined organic layer was washed with 2N aqueous hydrochloric acid solution and dried over anhydrous magnesium sulfate. The resulting solution was concentrated under reduced pressure to give 2.6 g of the desired product (Compound 2) as an oily matter.

reactant | 2,4-dimethoxyaniline | 1.08 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[bis(4-acetoxyphenyl)methyl]benzoyl chloride | C(C)(=O)OC1=CC=C(C=C1)C(C1=C(C(=O)Cl)C=CC=C1)C1=CC=C(C=C1)OC(C)=O | C24H19ClO5
reactant | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 g | C(Cl)Cl | CH2Cl2
product | 2-[Bis(4-acetoxyphenyl)methyl]-N-(2,4-dimethoxyphenyl)benzamide | 2.6 g | C(C)(=O)OC1=CC=C(C=C1)C(C1=C(C(=O)NC2=C(C=C(C=C2)OC)OC)C=CC=C1)C1=CC=C(C=C1)OC(C)=O | C32H29NO7
